data/oMe_Silver.jsonl
{"reaction_id": "NR-207_1-C1CCCCC1_2-C(F)(F)F_3-C_4-CC(C)C","level": "medium","name": "Oppenauer Oxidation","reactants_smiles": ["O=C(C1CCCCC1)(C(F)(F)F)","C(C)(CC(C)C)O"],"products_smiles": ["OC(C1CCCCC1)(C(F)(F)F).C(C)(=O)CC(C)C"],"conditions": "Al(Oi-Pr)3","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(C)(CC(C)C)[OH+][Al-](OC(C)C)(OC(C)C)OC(C)C","step_weight": 0,"rationale": "The alcohol oxygen donates a lone pair to the Lewis acidic aluminum center, increasing polarization of the O–H bond and aligning the substrate for subsequent hydride transfer."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(CC(C)C)[O][Al](OC(C)C)OC(C)C","step_weight": 0,"rationale": "Proton transfer to an alkoxide ligand generates an aluminum-bound alkoxide, enhancing nucleophilicity at oxygen and stabilizing the complex for rearrangement."},{"step": 3,"type": "rearrangement","subtype": "hydride_shift","intermediate_smiles": "C(C)(CC(C)C)[O][Al-](OC(C)C)([O+]=C(C1CCCCC1)(C(F)(F)F))OC(C)C","step_weight": 0,"rationale": "Hydride shifts from the α-carbon of the coordinated alcohol to the electrophilic carbonyl carbon of the acceptor, driven by the stability of the resulting carbonyl and facilitated by aluminum coordination."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "OC(C1CCCCC1)(C(F)(F)F).C(C)(=O)CC(C)C","step_weight": 0,"rationale": "Product ketone and alcohol are released as aluminum–oxygen bonds are cleaved, favored by the stability of the neutral products and regeneration of the catalyst."}],"description": "In the Oppenauer oxidation, the aluminum isopropoxide catalyst coordinates to the alcohol, activating it for hydride transfer to a more electrophilic carbonyl acceptor. The reaction proceeds due to the thermodynamic drive toward forming a more stable carbonyl compound, with aluminum facilitating both activation and hydride migration."}
